US04708955
Diphenylmethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-1-butenyl]-3-cephem-4-carboxylate (XIV, R2 =CH3, R3 =CH3)
A suspension of diphenylmethyl 7-amino-3-[(Z)-1-butenyl]-3-cephem-4-carboxylate hydrochloride (1.41 g, 3.1 mmoles) in ethyl acetate (20 ml) was shaken with aqueous NaHCO3 to give a clear two-layer solution. The organic layer was separated, washed with water and then an aqueous saturated NaCl solution, and dried over MgSO4. To the dried filtrate was added 1-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetoxy]benzotriazole (1.27 g, 4.0 mmoles), and the mixture was stirred at room temperature for 20 hours. The reaction mixture was filtered and the filtrate was washed with aqueous NaHCO3, water and a saturated NaCl solution, dried over MgSO4 and evaporated in vacuo. The residue was chromatographed on a silica gel column (40 g) with 3:1 CHCl3 -ethyl acetate to yield 1.7 g (91%) of the title compound. TLC (silica gel): Rf 0.25 (1:1 CHCl3 -ethyl acetate).

reactant | diphenylmethyl 7-amino-3-[(Z)-1-butenyl]-3-cephem-4-carboxylate hydrochloride | 3.1 mmoles, 1.41 g | Cl.NC1[C@@H]2N(C(=C(CS2)\C=C/CC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 1-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetoxy]benzotriazole | 4.0 mmoles, 1.27 g | NC=1SC=C(N1)/C(/C(=O)ON1N=NC2=C1C=CC=C2)=N/OC | C12H10N6O3S
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | Diphenylmethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-1-butenyl]-3-cephem-4-carboxylate | 1.7 g, 91% | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/CC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C30H29N5O5S2
